US08629286B2
To a solution of (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (0.053 g, 0.25 mmol) in acetonitrile (3 mL) was added diisopropylethylamine (0.17 mL, 1.01 mmol), followed by 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (0.11 g, 0.3 mmol). After stirring 15 min at RT, 2-(3-methylamino-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide hydrochloride salt (0.096 g, 0.25 mmol) was added to the reaction mixture. After stirring overnight at RT, solvent was evaporated and the resulting yellow oil was dissolved in ethylacetate (20 mL), washed with saturated aqueous sodium bicarbonate solution (30 mL), 1M HCl solution (10 mL), and brine (10 mL). The organic layer was dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude mixture was purified by column chromatography on silica gel (ethylacetate/cyclohexane 7:3) to give 2-(3-{methyl-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-amino}-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide (Compound No. 1.d.55, 83 mg, 61%). 1H-NMR (400 MHz, CDCl3): δ=7.75-7.80 (s, 1H (conformers)), 7.31-7.29 (m, 1H), 7.20-7.06 (m, 3H), 6.35-6.25 (s, 1H (conformers)), 6.05-5.55 (m, 1H (conformers)), 5.05-4.75 (s, 2H (conformers)), 3.55-3.46 (m, 2H), 3.10-2.90 (s, 3H (conformers)), 3.08-3.05 (m, 1H), 2.90-2.75 (s, 3H (conformers)+m, 3H), 2.30-2.20 (s, 3H (conformers)), 2.15-1.61 (m, 6H). MS: m/z=534 (M+1).

reactant | (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 0.25 mmol, 0.053 g | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
reactant | diisopropylethylamine | 1.01 mmol, 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 0.3 mmol, 0.11 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | 2-(3-methylamino-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide hydrochloride salt | 0.25 mmol, 0.096 g | Cl.CN(C(=O)C=1N=C(SC1)CCCNC)[C@@H]1CCCC2=CC=CC=C12
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-(3-{methyl-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-amino}-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide | 83 mg, 61% | CN(C(=O)C=1N=C(SC1)CCCN(C(CN1N=C(C=C1C)C(F)(F)F)=O)C)[C@@H]1CCCC2=CC=CC=C12 | C26H30F3N5O2S
